US08492405B2
To a mixture of 2-methyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrole-5-carboxylic acid (0.30 g), N-methoxymethylamine hydrochloride (100 mg), 1H-1,2,3-benzotriazol-1-ol (150 mg), triethylamine (0.15 mL) and N,N-dimethylformamide (10 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (190 mg), and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. Crystallization from diethyl ether gave N-methoxy-N,2-dimethyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrole-5-carboxamide (262 mg, yield 80%) as colorless crystals. melting point 187° C.

reactant | 2-methyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrole-5-carboxylic acid | 0.30 g | CC1=C(C=2NC(=CC2S1)C(=O)O)N(S(=O)(=O)C=1SC=CC1)C | C13H12N2O4S3
reactant | N-methoxymethylamine hydrochloride | 100 mg | Cl.COCN
reactant | 1H-1,2,3-benzotriazol-1-ol | 150 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 190 mg | Cl.CN(CCCN=C=NCC)C
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.15 mL | C(C)N(CC)CC | C6H15N
product | N-methoxy-N,2-dimethyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrole-5-carboxamide | 262 mg, yield 80% | CON(C(=O)C1=CC2=C(N1)C(=C(S2)C)N(S(=O)(=O)C=2SC=CC2)C)C | C15H17N3O4S3
